Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Transfer for ?necrotizing pancreatitis 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old man with history of HTN, DM, HLD,
GERD, and prior ETOH abuse with pancreatitis in ___ who was
transferred from ___ with concern for necrotizing
pancreatitis. 

He presented to the ___ with 2 days of worsening
abdominal pain which started in epigastric area and has become
more diffuse. Pain was ___ at home. Unable to tolerate any PO
intake without vomiting, and reports ~2 teaspoons of blood in
vomit morning of admission. He denies any fevers/chills. 

Per ___ records, patient was afebrile with pulse 97 and
blood pressure 130/92. Exam notable for "diffusely tender, 
rigid,
distended abdomen with guarding". Labs were notable for WBC of
16.1 and lipase of 1011. CT scan was concerning for regional
necrotizing pancreatitis primarily involving the pancreatic
uncinate process, with small focal parenchymal necrosis and
extensive acute necrotic collection in the retroperitoneum. A
small posterior pelvic cul-de-sac free fluid collection was also
noted. He was given 2L NS, fentanyl, Zofran, and Zosyn. General
surgery was consulted who recommended transfer to ___ for further
management. 

In the ED, initial vitals were:  98.8, 89, 137/90, 18, 98% RA

- Exam notable for:  Abdominal: Soft, significantly tender to
palpation, nondistended, no masses

- Labs notable for: WBC 12.2, Lipase 155, lactate 1.2  

- Imaging was notable for:  
___ Abdomen/Pelvis CT  ___ 
Since previous CT scan of abdomen and pelvis performed on
___, there are:
1. Interval development of regional necrotizing pancreatitis
primarily involving the pancreatic uncinate process, with small
focal parenchymal necrosis and extensive acute necrotic
collection in the retroperitoneum.
2. Interval development of small posterior pelvic cul-de-sac 
free
fluid collection.
3. Unchanged posterior T11-T12 syndesmophytes.

- Patient was given: LR (unknown volume), 4mg IV morphine 

Upon arrival to the floor, patient reports overall feeling
better. No nausea at time of interview. Pain improved from ___
--> ___ after morphine. Denies cough, chest pain, shortness of
breath, dysuria, diarrhea, fevers/chills. Endorses constipation,
last BM 4 days ago.   

ROS: Positive per HPI. Remaining 10 point ROS reviewed and
negative
 
Past Medical History:
PAST MEDICAL HISTORY:  
- Diabetes
- GERD
- HLD
- HTN
 
Social History:
___
Family History:
- HTN and T2DM in father, mother, and brothers
 
Physical ___:
ADMISSION 

VITAL SIGNS:  98.2PO 149 / 88 81 18 98 Ra 
GENERAL:  Non-toxic appearing, NAD 
HEENT: PERRL, MMM, OP clear
CARDIAC: RRR, no murmurs  
LUNGS: CTAB, no wheezes/crackles, normal work of breathing
ABDOMEN: Tender to percussion and light palpation epigastric and
central abdomen with some voluntary guarding, tender in RUQ, LUQ
and LLQ, non-tender in RLQ, +mildly distended, normal bowel
sounds 
EXTREMITIES: No edema, wwp
NEUROLOGIC: Alert and interactive, answering questions
appropriately, CN III-XII grossly intact, moves all extremities
with purpose

DISCHARGE
==========
___ 0411 Temp: 98.1 PO BP: 128/83 HR: 69 RR: 16 O2 sat:
95% O2 delivery: Ra 
GEN: NAD, lying in bed, amenable to conversation
HEENT: NCAT, EOMI, PERRL, anicteric, conjunctiva clear,
oropharynx clear, MMM
RESP: normal WOB, CTAB
CV: RRR, normal S1/S2, no m/r/g
ABD: Soft, mildly distended, mildly TTP in epigastric region,
notably improved from prior
EXT: WWP, no edema, radial/pedal pulses palpable
SKIN: no rash or other abnormal findings
NEURO: A&Ox3, normal speech, full strength/ROM in all 
extremities
 
Pertinent Results:
ADMISSION
==========

___ 03:52PM BLOOD WBC-12.2* RBC-4.17* Hgb-13.2* Hct-38.9* 
MCV-93 MCH-31.7 MCHC-33.9 RDW-11.6 RDWSD-39.7 Plt ___
___ 03:52PM BLOOD Neuts-67.7 ___ Monos-7.4 Eos-2.2 
Baso-0.2 Im ___ AbsNeut-8.29* AbsLymp-2.70 AbsMono-0.90* 
AbsEos-0.27 AbsBaso-0.03
___ 03:52PM BLOOD ___ PTT-24.1* ___
___ 03:52PM BLOOD Glucose-127* UreaN-14 Creat-0.8 Na-139 
K-4.1 Cl-100 HCO3-23 AnGap-16
___ 03:52PM BLOOD ALT-18 AST-13 AlkPhos-84 TotBili-1.5
___ 03:52PM BLOOD Albumin-4.2 Calcium-9.2 Phos-3.6 Mg-2.0
___ 03:52PM BLOOD Triglyc-123
___ 03:57PM BLOOD Lactate-1.2

DISCHARGE
=========

___ 07:09AM BLOOD WBC-5.2 RBC-3.76* Hgb-12.0* Hct-35.8* 
MCV-95 MCH-31.9 MCHC-33.5 RDW-11.6 RDWSD-40.2 Plt ___
___ 07:09AM BLOOD Glucose-149* UreaN-12 Creat-0.7 Na-141 
K-3.9 Cl-102 HCO3-25 AnGap-14
___ 07:09AM BLOOD Calcium-9.1 Phos-4.1 Mg-2.1

MICRO
======
BCX: NGTD

IMAGING
========
RUQUS
1. No evidence of gallstones or biliary dilatation.  Pancreas is 
not
visualized due to overlying bowel gas.
2. Echogenic liver consistent with steatosis. Other forms of 
liver disease and more advanced liver disease including 
steatohepatitis or significant hepatic fibrosis/cirrhosis cannot 
be excluded on this study.
 
Brief Hospital Course:
___ with history of HTN, DM, HLD, GERD, prior ETOH use disorder
c/b pancreatitis, who presented to ___ with abd pain and
hematemesis, transferred with concern for necrotizing
pancreatitis.

# Pancreatitis, concern for possible necrosis:
Patient presented with severe epigastric pain, n/v with 
small-volume hematemesis, and inability to tolerate PO intake. 
Hematemesis likely due to ___ tear iso ongoing 
vomiting. At ___, lipase 1001, CT A/P c/f necrotizing 
pancreatitis. On transfer, patient appears non-toxic with 
improved pain/nausea. Aggressive fluids continued. Antibiotics 
held. ___ service consulted, agreed with fluids 
and holding abx. RUQUS obtained without acute pathology. 
Recommended CT abdomen/pelvis to be obtained after inflammation 
improves prior to evaluation with Dr. ___. No obvious etiology 
for acute pancreatitis determined (no gallstones, normal 
triglyerides, no reported EtOH use), concern for underlying 
mass/anatomical abnormality that may be contributing to 
recurrent pancreatitis.

CHRONIC ISSUES:
# Type 2 Diabetes: Maintained on insulin sliding scale, held 
home metformin during admission. Restarted on discharge.

# HTN
No anti-HTN meds prescribed (patient reportedly started new 
medication recently), BPs stable.

# History of ETOH use disorder
No current signs and symptoms of withdrawal. Last drink ___, 
patient reports only 2 drinks per month.

# GERD:
Continued on omeprazole.

# HLD
Continued simvastatin

TRANSITIONAL ISSUES
===================
[] Please follow up with pancreatic surgery in 1 month. Dr. 
___ (___) will call to schedule an 
appointment, and patient should get CT imaging prior to this 
appointment with PCP. Please bring disc with imaging to the 
appointment.
[] Please check HbA1c given unclear precipitating event of 
pancreatitis episode

# CODE: Full (confirmed)
# CONTACT: ___ (girlfriend) ___ ___ (sister) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 
2. MetFORMIN XR (Glucophage XR) 500 mg PO BID 
3. Simvastatin 10 mg PO QPM 

 
Discharge Medications:
1.  MetFORMIN XR (Glucophage XR) 500 mg PO BID  
2.  Omeprazole 20 mg PO DAILY  
3.  Simvastatin 10 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary

Acute Pancreatitis

Secondary

Diabetes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you at ___. 

WHY DID YOU COME TO THE HOSPITAL?
-You had a lot of abdominal pain caused by pancreatitis.

WHAT HAPPENED WHILE YOU WERE HERE?
-You were given fluids to keep you hydrated
-The surgery team evaluated you, and there was no need for any 
surgery or further testing.

WHAT SHOULD YOU DO WHEN YOU LEAVE THE HOSPITAL?
- Please continue to take all of your medications as directed, 
and follow up with all of your doctors. 
- Please discuss a CT scan with your PCP prior to your follow up 
with the pancreatic surgery team. 

Again, it was a pleasure taking care of you!

Sincerely, 

Your ___ Team
 
Followup Instructions:
___